US05919807
a) 2-Bromomethyl-6-methoxy-benzothiazole
7.75 g (50 mmol) of 2-amino-5-methoxy-thiophenol are dissolved in 150 ml methylene chloride and 14.1 g (70 mmol) of bromoacetylbromide are added whilst cooling with ice. Then the mixture is heated for 1 hour to reflux temperature. After cooling solid potassium carbonate is added until foaming ceases, the mixture is filtered and the filtrate is evaporated down. The evaporation residue is purified by column chromatography on neutral aluminium oxide (eluant: petroleum ether/ethyl acetate=3:1). Yield: 6.8 g (52.7 of theory), Melting point: 90-91° C.

reactant | 2-amino-5-methoxy-thiophenol | 50 mmol, 7.75 g | NC1=C(C=C(C=C1)OC)S | C7H9NOS
reactant | bromoacetylbromide | 70 mmol, 14.1 g | BrCC(=O)Br | C2H2Br2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromomethyl-6-methoxy-benzothiazole | BrCC=1SC2=C(N1)C=CC(=C2)OC | C9H8BrNOS
